US08420695B2
To a biphasic mixture of 2-(4-allylphenyl)propan-2-ol (5.53 g, 31.4 mmol) and N-Methyl morpholine N-oxide (3.86 g, 32.9 mmol) in acetone (11 mL) and water (22 mL) was added osmium tetroxide (3.14 mL, 0.157 mmol) with vigorous stirring. After 24 hours, dithionite (0.15 g), Florisil (1.5 g), and water (8 mL) were added and allowed to stir for an additional 15 minutes before filtering through a pad of Celite. The filter was rinsed with acetone (2×5 mL, then 2×10 mL), and filtrate was concentrated by rotary evaporation to remove the acetone. The remaining liquid was diluted with 9:1 chloroform:isopropanol (20 mL) and aqueous hydrogen chloride (1 M, 20 mL), the layers were separated, and the acidic (pH=1) aqueous layer was extracted with 9:1 chloroform:isopropanol (2×20 mL). The combined organic layers were washed with 3:1 water:brine (12 mL), saturated aqueous sodium bicarbonate (10 mL), and brine (10 mL). The aqueous layers were combined and saturated with solid sodium chloride (50 cc) by stirring for 90 minutes, and then extracted with 9:1 chloroform:isopropanol (3×50 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated, and the crude material was purified by silica gel chromatography (5-20% methanol/dichloromethane) to afford 3-[4-(1-hydroxy-1-methylethyl)phenyl]propane-1,2-diol as an oil.

reactant | 2-(4-allylphenyl)propan-2-ol | 31.4 mmol, 5.53 g | C(C=C)C1=CC=C(C=C1)C(C)(C)O | C12H16O
reactant | N-Methyl morpholine N-oxide | 32.9 mmol, 3.86 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dithionite | 0.15 g | S(=O)([O-])S(=O)[O-]
reactant | Florisil | 1.5 g | [O-][Si](=O)[O-].[Mg+2]
solvent | acetone | 11 mL | CC(=O)C | C3H6O
solvent | water | 22 mL | O | H2O
catalyst | osmium tetroxide | 0.157 mmol, 3.14 mL | [Os](=O)(=O)(=O)=O
solvent | water | 8 mL | O | H2O
product | 3-[4-(1-hydroxy-1-methylethyl)phenyl]propane-1,2-diol | OC(C)(C)C1=CC=C(C=C1)CC(CO)O | C12H18O3
